US07807671B2
In a 100 ml 3 necked round bottom flask, intermediate tert-butyl 4-(cyano(diethoxyphosphoryl)methyl)piperazine-1-carboxylate (5.5 g) was taken in dry THF (25 ml) under nitrogen. Sodium bis trimethylsilyl amide (3.3 g) was added dropwise at 0° C. and stirred for 30 min, then pyridine-2-carboxaldehyde (1.67 g) in 15 ml dry THF was added dropwise to the above reaction mixture at 0° C. Reaction mixture was stirred at room temperature for overnight. TLC was checked no starting material and the reaction mixture was quenched with saturated ammonium chloride (50 ml) and ethyl acetate was added. The organic layer was washed with brine, dried and concentrated to get crude product compound tert-butyl 4-(1-cyano-2-(pyridin-2-yl)vinyl)piperazine-1-carboxylate as yellow liquid.

reactant | tert-butyl 4-(cyano(diethoxyphosphoryl)methyl)piperazine-1-carboxylate | 5.5 g | C(#N)C(N1CCN(CC1)C(=O)OC(C)(C)C)P(=O)(OCC)OCC | C15H28N3O5P
reactant | Sodium bis trimethylsilyl amide | 3.3 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | pyridine-2-carboxaldehyde | 1.67 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(1-cyano-2-(pyridin-2-yl)vinyl)piperazine-1-carboxylate | C(#N)C(=CC1=NC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H22N4O2
